US07625914B2
1.1 g (28.5 mmol) of 60% sodium hydride are added to a solution of 5 g (25.9 mmol) of 5-bromo-3-nitro-1H-[1,2,4]triazole in 80 ml of dimethylformamide, cooled beforehand to 0° C. The reaction medium is stirred for 20 minutes and 8 ml (129.5 mmol) of methyl iodide are then added. After stirring at room temperature for 18 hours, water is added and the reaction medium is extracted with ethyl acetate. The organic phase is washed thoroughly with water, with saturated sodium chloride solution, dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by thin-layer chromatography on silica eluted with a 75/25 heptane/ethyl acetate mixture. 3.2 g (60%) of 5-bromo-1-methyl-3-nitro-1H-[1,2,4]triazole are obtained.

reactant | sodium hydride | 28.5 mmol, 1.1 g | [H-].[Na+]
reactant | 5-bromo-3-nitro-1H-[1,2,4]triazole | 25.9 mmol, 5 g | BrC1=NC(=NN1)[N+](=O)[O-] | C2HBrN4O2
reactant | methyl iodide | 129.5 mmol, 8 ml | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 5-bromo-1-methyl-3-nitro-1H-[1,2,4]triazole | 3.2 g, 60% | BrC1=NC(=NN1C)[N+](=O)[O-] | C3H3BrN4O2
